US07872014B2
To a mixture of [3,4-bis(methyloxy)phenyl]acetonitrile (1.0 g, 5.5 mmol) and methyl (2-oxopyrrolidin-1-yl)acetate (1.0 g, 7.0 mmol) in ethanol (4 mL) was added a sodium ethoxide solution (21%, 4.2 mL, 11 mmol), and the resulting mixture was heated at reflux for 18 hours. After cooling to room temperature, it was poured into a mixture of ice-water (50 mL). This aqueous mixture was washed with dichloromethane (3×20 mL) then acidified to pH 1. The acidified mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with aqueous sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated to give 2-[3,4-bis(methyloxy)phenyl]-3-oxo-4-(2-oxopyrrolidin-1-yl)butanenitrile as a brown oil (0.43 g, 1.4 mmol, 25% yield), MS (EI) for C16H18N2O4: 303 (MH+).

reactant | [3,4-bis(methyloxy)phenyl]acetonitrile | 5.5 mmol, 1.0 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | methyl (2-oxopyrrolidin-1-yl)acetate | 7.0 mmol, 1.0 g | O=C1N(CCC1)CC(=O)OC | C7H11NO3
reactant | sodium ethoxide | 11 mmol, 4.2 mL | [O-]CC.[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[3,4-bis(methyloxy)phenyl]-3-oxo-4-(2-oxopyrrolidin-1-yl)butanenitrile | 1.4 mmol, 0.43 g, 25% yield | COC=1C=C(C=CC1OC)C(C#N)C(CN1C(CCC1)=O)=O | C16H18N2O4
